US07067506B2
1-(6-Chloro-pyrazin-2-yl)-3-(2-methoxy-5-methyl-phenyl)-urea
To a stirred solution of 2-amino-6-chloropyrazine (130 mg, 1 mmol) in 3 mL THF at 0° C. under nitrogen was added methyl magnesium iodide (3M in Et2O, 330 μL, 1 mmol) to give a yellow suspension that was stirred at 0° C. for 15 minutes. The suspension was treated with the isocyanate neat (147 μL, 1 mmol) and allowed to warm to room temperature overnight. The reaction was partitioned between EtOAc (30 mL) and 10% Na2CO3 (30 mL). The organics were isolated and washed 1×30 mL with 10% Na2CO3 and 1×30 mL with saturated NaCl. The organics were dried (MgSO4), filtered and concentrated to a crude residue that was triturated with EtOAc to give, after filtration, the urea product as a white solid (27 mg, 9%). 1H-NMR (400 MHz, CDCl3) δ8.26 (s, H), 8.23 (s, 1H), 8.17 (s, 1H), 8.09 (br s, 1H), 6.84 (d, 1H), 6.81 (d, 1H), 3.96 (s, 3H), 2.35 (s, 3H). LRMS (ESI, Positive) m/e 293.0 (M+1).

reactant | 2-amino-6-chloropyrazine | 1 mmol, 130 mg | NC1=NC(=CN=C1)Cl | C4H4ClN3
reactant | methyl magnesium iodide | 1 mmol, 3M, 330 μL | C[Mg]I
reactant | isocyanate | 1 mmol, 147 μL | [N-]=C=O
reactant | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(6-Chloro-pyrazin-2-yl)-3-(2-methoxy-5-methyl-phenyl)-urea | ClC1=CN=CC(=N1)NC(=O)NC1=C(C=CC(=C1)C)OC | C13H13ClN4O2
